US06638646B2
a) Synthesis of 4-bromo-2,5-dimethylanisole
Bromine (291.5 g, 1835 mmol) was added dropwise with stirring to an initially introduced mixture of 2,5-dimethylanisole (250 g, 1835 mmol) and Fe powder (3.25 g). The commencement of the reaction was evident from gas evolution. The remainder of the bromine was subsequently added dropwise over the course of 30-40 minutes at room temperature with water-bath cooling. The reaction mixture was stirred for about a further 4 hours. The Fe powder was subsequently separated off, a little chloroform was added to the solution, and the solution was washed by shaking with water, resulting in the solution becoming paler. After the solution had been shaken with 50 ml of saturated aqueous Na2SO3 solution, it had become completely colorless. The solution was shaken again with dilute aqueous NaOH and twice with H2O and dried, and the solvent was stripped off. The crude product was subjected to fractional distillation under reduced pressure.

reactant | Bromine | 1835 mmol, 291.5 g | BrBr | Br2
reactant | 2,5-dimethylanisole | 1835 mmol, 250 g | CC1=C(C=C(C=C1)C)OC | C9H12O
reactant | Na2SO3 | 50 ml | [O-]S(=O)[O-].[Na+].[Na+]
reactant | NaOH | [OH-].[Na+]
catalyst | Fe | 3.25 g | [Fe] | Fe
solvent | H2O | O | H2O
product | 4-bromo-2,5-dimethylanisole | BrC1=CC(=C(C=C1C)OC)C | C9H11BrO
